US07109225B2
h] (S)-4-Benzyl-3-((S)-3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-propionyl)-oxazolidin-2-one
0.267 g of the above prepared (S)-4-benzyl-3-((2S,3R)-3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-3-hydroxy-propionyl)-oxazolidin-2-one (0.444 mmol) was dissolved in 1.4 ml of trifluoroacetic acid, treated at 0° with 0.353 ml of triethylsilane (5 eq.) and then kept for 4 h at 0°, when TLC indicated the disappearance of starting material. The reaction mixture was then poured onto crashed ice/AcOEt/NaHCO3, the organic layer washed with water (pH of aq. phase˜8), dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=65/35) delivered 0.237 g of the title compound as white foam.

reactant | (S)-4-benzyl-3-((2S,3R)-3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-3-hydroxy-propionyl)-oxazolidin-2-one | 0.444 mmol | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C(C)(C)C)OCC)=O | C35H40N2O7
reactant | triethylsilane | 0.353 ml, 5 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 1.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-4-Benzyl-3-((S)-3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-propionyl)-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C(C)(C)C)OCC)=O | C35H40N2O6
